### PR TITLE
[Merged by Bors] - refactor(GroupTheory/Sylow): Add version of `Sylow.not_dvd_index` with only typeclass assumptions

### PR DESCRIPTION
**Pull request by tb65536**
This PR adds a version of `Sylow.not_dvd_index` with only typeclass assumptions since in practice it is applied to finite groups where the typeclass assumptions can be inferred automatically. This allows for a little golfing in `Transfer.lean`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/Sylow.lean [hunk 1]
```diff
@@ -361,8 +361,9 @@ theorem card_sylow_dvd_index [Fact p.Prime] [Finite (Sylow p G)] (P : Sylow p G)
   ((congr_arg _ (card_sylow_eq_index_normalizer P)).mp dvd_rfl).trans
     (index_dvd_of_le le_normalizer)
 
-theorem not_dvd_index_sylow' [hp : Fact p.Prime] (P : Sylow p G) [(P : Subgroup G).Normal]
-    [fP : FiniteIndex (P : Subgroup G)] : ¬p ∣ (P : Subgroup G).index := by
+/-- Auxilliary lemma for `Sylow.not_dvd_index` which is strictly stronger. -/
+theorem Sylow.not_dvd_index_aux [hp : Fact p.Prime] (P : Sylow p G) [(P : Subgroup G).Normal]
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Sylow.lean:365]:
```suggestion
private theorem Sylow.not_dvd_index_aux [hp : Fact p.Prime] (P : Sylow p G) [(P : Subgroup G).Normal]
```

File: Mathlib/GroupTheory/Sylow.lean [hunk 2]
```diff
@@ -361,8 +361,9 @@ theorem card_sylow_dvd_index [Fact p.Prime] [Finite (Sylow p G)] (P : Sylow p G)
   ((congr_arg _ (card_sylow_eq_index_normalizer P)).mp dvd_rfl).trans
     (index_dvd_of_le le_normalizer)
 
-theorem not_dvd_index_sylow' [hp : Fact p.Prime] (P : Sylow p G) [(P : Subgroup G).Normal]
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Sylow.lean:364]: Please leave a deprecated alias in place whenever you remove or rename a theorem

**Review by Ruben-VandeVelde — CHANGES_REQUESTED** [review]

File: Mathlib/GroupTheory/Sylow.lean [hunk 3]
```diff
@@ -378,15 +379,27 @@ theorem not_dvd_index_sylow' [hp : Fact p.Prime] (P : Sylow p G) [(P : Subgroup
     QuotientGroup.ker_mk'] at hp
   exact hp.ne' (P.3 hQ hp.le)
 
-theorem not_dvd_index_sylow [hp : Fact p.Prime] [Finite (Sylow p G)] (P : Sylow p G)
-    (hP : relindex ↑P (P : Subgroup G).normalizer ≠ 0) : ¬p ∣ (P : Subgroup G).index := by
+@[deprecated (since := "2024-11-03")]
+alias not_dvd_index_sylow' := Sylow.not_dvd_index_aux
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Sylow.lean:383]: Hm, that's not going to give a useful suggestion - let's make it an alias of `Sylow.not_dvd_index` instead

**Review by Ruben-VandeVelde — APPROVED** [review]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
